US04323500
A mixture of 5.00 g of 17-hydroxy-3-oxo-17α-pregna-4,6-diene- 21-carboxylic acid γ-lactone (99.5% purity, 14.6 mmole), 15 ml of N-methyl-2-pyrrolidone and 228 mg of p-toluene-sulfonic acid monohydrate was heated to 80° C. in a nitrogen atmosphere. Then 3.0 ml of thioacetic acid was added and the mixture was stirred for 2 hours. At a temperature of 80° C., 5 ml of acetic acid was added followed by dropwise addition of 15 ml of water over 5 minutes. After completion of the dropwise addition, the resulting mixture was gradually cooled to 30° C. over an hour and twenty minutes. During the cooling, the acetylthio derivative was precipitated from the solution. Subsequently a mixture of 16.5 ml of methanol and 15 ml of water was added dropwise over 12 minutes. After completion of the dropwise addition, the mixture was stirred at 30° C. for another hour and filtered. The collected cyrstals were washed twice each with 25 ml of an equal volume mixture of methanol and water, and dried at a reduced pressure at 70° C. Thus, 4.7951 g of dried pure spironolactone was obtained as crystals, m.p. 204.4°-206.3° C.

reactant | 17-hydroxy-3-oxo-17α-pregna-4,6-diene- 21-carboxylic acid γ-lactone | 14.6 mmole, 5.00 g | CC12CCC(=O)C=C1C=CC3C2CCC4(C3CCC45CCC(=O)O5)C | C22H28O3
reactant | N-methyl-2-pyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
reactant | p-toluene-sulfonic acid monohydrate | 228 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | thioacetic acid | 3.0 ml | C(C)(=S)O | C2H4OS
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | spironolactone | 4.7951 g | CC(=O)S[C@@H]1CC2=CC(=O)CC[C@@]2([C@@H]3[C@@H]1[C@@H]4CC[C@]5([C@]4(CC3)C)CCC(=O)O5)C | C24H32O4S
